US08278482B2
3-Azido-3-methylbutanoyl chloride
To a stirred solution of 3-azido-3-methylbutanoic acid (10 g, 69.8 mmol) in anh. dichloroethane (50 mL) was added thionyl chloride in one portion (10.0 mL, 2 equiv, 0.14 mol). The flask was fitted with a condenser and the reaction was heated in a 50° C. oil bath for 2 h. The reaction was concentrated to a brown-black suspension. The residue was vacuum distilled through a short path distillation apparatus. The forerun was discarded and the major fraction distilled at 66° C. at 18 mbar as a pale yellow liquid (9.66 g, 85.6%). 1H NMR (CDCl3, 400 MHz): δ 1.41 (s, 6H), 2.51 (s, 2H), 2.98 (s, 2 H).

reactant | 3-azido-3-methylbutanoic acid | 69.8 mmol, 10 g | N(=[N+]=[N-])C(CC(=O)O)(C)C | C5H9N3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | 3-Azido-3-methylbutanoyl chloride | N(=[N+]=[N-])C(CC(=O)Cl)(C)C | C5H8ClN3O
